************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: DLY2X1
* View Name:     schematic
* Netlisted on:  Jun  4 07:42:08 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        VSS:G
+        ExtVDD:P
+        ExtVSS:G

*.PIN VDD
*+    VSS
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    DLY2X1
* View Name:    schematic
************************************************************************

.SUBCKT DLY2X1 A VDD VSS Y
*.PININFO A:I VDD:I VSS:I Y:O
Mmn6 n3 VDD n10 VSS g45n1svt m=1 l=45n w=145n
Mmn5 n10 n2 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn8 Y n4 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn4 n2 VDD n8 VSS g45n1svt m=1 l=45n w=145n
Mmn3 n8 n1 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn2 n1 VDD n6 VSS g45n1svt m=1 l=45n w=145n
Mmn1 n6 n0 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn7 n4 n3 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn0 n0 A VSS VSS g45n1svt m=1 l=45n w=145n
Mmp6 n3 VSS n11 VDD g45p1svt m=1 l=45n w=215n
Mmp5 n11 n2 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp8 Y n4 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp4 n2 VSS n9 VDD g45p1svt m=1 l=45n w=215n
Mmp3 n9 n1 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp2 n1 VSS n7 VDD g45p1svt m=1 l=45n w=215n
Mmp1 n7 n0 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp7 n4 n3 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 n0 A VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

